US07517910B2
3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}oxy)-2-methylphenyl]propanoic acid
To a mixed solution of methyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}oxy)-2-methylphenyl]propanoate (0.20 g, 0.35 mmol) in methanol (2 mL) and tetrahydrofuran (4 mL) was added 1 N aqueous sodium hydroxide solution (0.70 mL, 0.70 mmol), and the mixture was stirred at 50° C. for 2 hr. The reaction mixture was neutralized with 1 N hydrochloric acid, and diluted with ethyl acetate. The mixture washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative HPLC (gradient cycle A). The obtained oil was diluted with ethyl acetate, and neutralized with saturated aqueous sodium hydrogencarbonate, and the mixture washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (0.15 g, yield 77%) as a colorless oil. MS (ESI+): 561 (M+H).

reactant | methyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}oxy)-2-methylphenyl]propanoate | 0.35 mmol, 0.20 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(COC2=CC(=C(C=C2)CCC(=O)OC)C)C=C1)OC(C)C | C37H38N2O4
reactant | sodium hydroxide | 0.70 mmol, 1 N, 0.70 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzyl}oxy)-2-methylphenyl]propanoic acid | 0.15 g, yield 77% | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(COC2=CC(=C(C=C2)CCC(=O)O)C)C=C1)OC(C)C | C36H36N2O4
